US09102684B2
N-(3-Bromo-2-methyl-phenyl)-2-hydroxyimino-acetamide
A mixture of 3-Bromo-2-methyl-phenylamine (15.6 g, 0.084 mol), NH2OH H2SO4 (71.25 g, 0.5 mol), conc. HCl (8.8 mL) in H2O (90 mL) is slowly added to a solution of chloral hydrate (15.2 g, 0.09 mol), Na2SO4 (71.25 g, 0.44 mol) in H2O (255 mL) then stirred at 35° C. for 1 h, 52° C. for 1.5 h, 75° C. for 1 h. After the reaction, the mixture is filtered and the solid is dried under vacuum to give product.

reactant | 3-Bromo-2-methyl-phenylamine | 0.084 mol, 15.6 g | BrC=1C(=C(C=CC1)N)C | C7H8BrN
reactant | NH2OH H2SO4 | 0.5 mol, 71.25 g | NO.OS(=O)(=O)O
reactant | HCl | 8.8 mL | Cl | ClH
reactant | chloral hydrate | 0.09 mol, 15.2 g | ClC(C(O)O)(Cl)Cl | C2H3Cl3O2
reactant | Na2SO4 | 0.44 mol, 71.25 g | [O-]S(=O)(=O)[O-].[Na+].[Na+]
solvent | H2O | 90 mL | O | H2O
solvent | H2O | 255 mL | O | H2O
product | N-(3-Bromo-2-methyl-phenyl)-2-hydroxyimino-acetamide | BrC=1C(=C(C=CC1)NC(C=NO)=O)C | C9H9BrN2O2
